US06365620B2
A solution of 1,5-dimethyl-4-trifluoromethylpyrrol-3-carboxylic acid (1.9 g) and oxalyl chloride (0.9 ml) in methylene chloride (20 ml) is stirred at room temperature in the presence of a catalytic amount of DMF. The solvent is evaporated under reduced pressure to give a crystalline solid. This solid is dissolved in methylene chloride (1 ml) and added to a solution of 2-biphenylamine (1.7 g) and triethylamine (4.2 ml) in methylene chloride (20 ml) at 0° C. The reaction mixture is stirred at room temperature for 2 hours. Evaporation of the solvent under reduced pressure, addition of water and filtering gives the N-(2-biphenylyl)-1,5-dimethyl-4-trifluoromethylpyrrol-3-carboxamide.

reactant | 1,5-dimethyl-4-trifluoromethylpyrrol-3-carboxylic acid | 1.9 g | CN1C=C(C(=C1C)C(F)(F)F)C(=O)O | C8H8F3NO2
reactant | oxalyl chloride | 0.9 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 2-biphenylamine | 1.7 g | C=1(C(=CC=CC1)N)C1=CC=CC=C1 | C12H11N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 4.2 ml | C(C)N(CC)CC | C6H15N
product | N-(2-biphenylyl)-1,5-dimethyl-4-trifluoromethylpyrrol-3-carboxamide | C1(=C(C=CC=C1)NC(=O)C1=CN(C(=C1C(F)(F)F)C)C)C1=CC=CC=C1 | C20H17F3N2O
